US04164395
To 300 ml of 1,4 dioxane in a round-bottom flask was added 11.6 g (0.1 mole) of dimethylglyoxime. When the solid had completely dissolved, 22.9 g (0.2 mole) of methanesulfonyl chloride was added. The mixture was stirred and 20.2 g (0.2 mole) triethylamine was added dropwise. The reaction mixture was stirred for 51/2 hours during which time a precipitate was formed. The dioxane was removed by evaporation under reduced pressure. The residue was stirred in ice water, then filtered. The solid product was dissolved in dichloromethane and dried over anhydrous sodium sulfate. The slurry was filtered and the solvent was removed in a rotary evaporator. The solid residue was stirred in cold ethanol, then filtered and dried in a vacuum oven, giving 21.05 g (77% yield) of di-(methanesulfonyl)-dimethylglyoxime with mp 169-172° C.

reactant | dimethylglyoxime | 0.1 mole, 11.6 g | CC(C(=NO)C)=NO | C4H8N2O2
reactant | methanesulfonyl chloride | 0.2 mole, 22.9 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.2 mole, 20.2 g | C(C)N(CC)CC | C6H15N
solvent | 1,4 dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | di-(methanesulfonyl)-dimethylglyoxime | 21.05 g, 77% yield | CS(=O)(=O)ON=C(C(=NOS(=O)(=O)C)C)C | C6H12N2O6S2
